US08980913B2
Step 1: 4-Formyl-N-(2-hydroxyethyl)-N-methylbenzenesulfonamide
To an ice-cooled solution of 2-(methylamino)ethanol (0.196 mL, 2.44 mmol) and triethylamine (0.407 mL, 2.93 mmol) in DCM (10 mL) was added 4-formylbenzenesulfonyl chloride (0.500 g, 2.44 mmol). The reaction mixture was warmed slowly to RT and stirred at RT for 80 hours. The reaction mixture was diluted with DCM and was washed with 10% aqueous potassium hydrogen sulfate and dried (magnesium sulfate). The mixture filtered and the solvent evaporated at reduced pressure to afford the title compound (0.548 g, 92%).

reactant | 2-(methylamino)ethanol | 2.44 mmol, 0.196 mL | CNCCO | C3H9NO
reactant | triethylamine | 2.93 mmol, 0.407 mL | C(C)N(CC)CC | C6H15N
reactant | 4-formylbenzenesulfonyl chloride | 2.44 mmol, 0.500 g | C(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H5ClO3S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Formyl-N-(2-hydroxyethyl)-N-methylbenzenesulfonamide | 0.548 g, 92% | C(=O)C1=CC=C(C=C1)S(=O)(=O)N(C)CCO | C10H13NO4S
